US04032321
To a stirred mixture of 444.3 g of 3-amino-2-cyano-4-methyl-2-pentenethioamide (from part B) and 1315 ml of ethanol were added dropwise 298 g of 30% hydrogen peroxide (containing 89.4 g of active H2O2) during 1.25 hours. The reaction temperature was maintained at 30°-35° with an ice bath. The reaction mixture was stirred an additional 17.5-18 hours in an ambient temperature water bath. The reaction mixture was poured into 5100 ml of cold water with stirring. The water was cooled in an ice-water bath during addition of the reaction mixture. The mixture was stirred for one hour at 5°-10° and filtered. The filter cake was washed with 2 liters of water and allowed to dry on the suction filter. After air-drying over a weekend, 426.5 g of 5-amino-4-cyano-3-isopropylisothiazole, mp 130°-132° was obtained.

reactant | 3-amino-2-cyano-4-methyl-2-pentenethioamide | 444.3 g | NC(=C(C(N)=S)C#N)C(C)C | C7H11N3S
reactant | ethanol | 1315 ml | C(C)O | C2H6O
reactant | hydrogen peroxide | 298 g | OO | H2O2
solvent | water | O | H2O
solvent | water | 5100 ml | O | H2O
product | 5-amino-4-cyano-3-isopropylisothiazole | 426.5 g | NC1=C(C(=NS1)C(C)C)C#N | C7H9N3S
